US08420655B2
To a solution of 2-formyl-4-methoxyphenylboronic acid (2.5 g, 13.89 mmol) in CH2Cl2 (30 mL) and DMF (15 mL) are added 3-methyl-1H-pyrazole (0.80 g, 9.72 mmol), Cu(OAc)2 (3.78 g, 20.84 mmol), pyridine (2.27 mL, 27.78 mmol) and molecular sieves (2.5 g) at room temperature. The mixture is stirred at the same temperature for 5 days with loose cap. The mixture is filtered through a short pad of diatomaceous earth and the solids are washed with CH2Cl2. The combined filtrates are concentrated and the remaining residue is diluted with water and ethyl acetate. The layers are separated and the aqueous phase extracted with EtOAc (3×). The combined organics are dried (MgSO4), filtered, and concentrated. The remaining residue is purified via flash chromatography (silica gel, 0-15% EtOAc/heptane) to afford 5-methoxy-2-(3-methyl-pyrazol-1-yl)-benzaldehyde (90 mg, 3%).

reactant | 2-formyl-4-methoxyphenylboronic acid | 13.89 mmol, 2.5 g | C(=O)C1=C(C=CC(=C1)OC)B(O)O | C8H9BO4
reactant | 3-methyl-1H-pyrazole | 9.72 mmol, 0.80 g | CC1=NNC=C1 | C4H6N2
reactant | pyridine | 27.78 mmol, 2.27 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Cu(OAc)2 | 20.84 mmol, 3.78 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 5-methoxy-2-(3-methyl-pyrazol-1-yl)-benzaldehyde | 90 mg, 3% | COC=1C=CC(=C(C=O)C1)N1N=C(C=C1)C | C12H12N2O2
